US07777047B2
2-{2-[7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide
A mixture of {2-[7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (210 mg), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (90 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (120 mg) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 15 hr. 1H-1,2,3-Benzotriazol-1-ol-ammonia complex (150 mg) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (190 mg) were added to the reaction mixture, and the mixture was further stirred at room temperature for 6 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with aqueous citric acid solution, saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was purified by preparative HPLC to give the title compound (90 mg, yield 43%) as pale-yellow crystals. The crystals were recrystallized from ethyl acetate-hexane to give pale-yellow prism crystals. melting point 186-187° C. MS: 519 (MH+).

reactant | {2-[7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 210 mg | CN(C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C19H16F3N3O5S3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 120 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 190 mg | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
product | 2-{2-[7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide | 90 mg, yield 43% | CN(C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)N)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C19H17F3N4O4S3
